US07985569B2
Selective growth of B. subtilis (ΔaprE, ΔnprE, oppA, ΔspoIIE, degUHy32, ΔamyE::(xylR, pxylA-comK) transformants harboring the pBPLT-ASP-C1-2 vector was performed in shake flasks containing 25 ml Synthetic Maxatase Medium (SMM), with 0.97 g/l CaCl2.6H2O instead of 0.5 g/l CaCl2 (See, U.S. Pat. No. 5,324,653, herein incorporated by reference) with 20 mg/L neomycin. This growth resulted in the production of secreted ASP protease with proteolytic activity. Gel analysis was performed using NuPage Novex 10% Bis-Tris gels (Invitrogen, Cat. No. NP0301 BOX). To prepare samples for analysis, 2 volumes of supernatant were mixed with 1 volume 1M HCl, 1 volume 4×LDS sample buffer (Invitrogen, Cat. No. NP0007), and 1% PMSF (20 mg/ml) and subsequently heated for 10 minutes at 70° C. Then, 25 μL of each sample was loaded onto the gel, together with 10 μL of SeeBlue plus 2 pre-stained protein standards (Invitrogen, Cat. No. LC5925). The results clearly demonstrated that the asp cloning strategy described in this Example yield active Asp produced by B. subtilis.

reactant | CaCl2 | [Cl-].[Cl-].[Ca+2]
reactant | neomycin | C1[C@H]([C@@H]([C@H]([C@@H]([C@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CN)O)O)N)O[C@H]3[C@@H]([C@@H]([C@H](O3)CO)O[C@@H]4[C@@H]([C@H]([C@@H]([C@@H](O4)CN)O)O)N)O)O)N | C23H46N6O13
reactant | Novex | C1=CC(=C(C=C1Cl)SC2=C(C=CC(=C2)Cl)O)O | C12H8Cl2O2S
reactant | HCl | 1M | Cl | ClH
reactant | PMSF | C1=CC=C(C=C1)CS(=O)(=O)F | C7H7FO2S
product | Asp | N[C@@H](CC(O)=O)C(=O)O | C4H7NO4
